US07994336B2
b) Synthesis of (2S)-aminomethyl-azetidine-1-carboxylic acid tert-butyl ester
To a cold (0° C.) solution of (2S)-carbamoyl-azetidine-1-carboxylic acid tert-butyl ester (8 g) in dry THF (200 mL) was added dropwise 1M BH3 solution in THF (160 mL). The reaction mixture was stirred at RT under nitrogen for 20 h and cooled to 0° C. Then was added carefully 1M HCl solution (200 mL) and brine and the mixture was extracted with EA (3×). The aqueous phase was basified with 2M NaOH solution (pH 10), extracted with EA (3×). The combined organic extracts were washed with brine, dried (Na2SO4), filtered and concentrated to yield the title compound light yellow oil (1.9 g, 25%).

reactant | (2S)-carbamoyl-azetidine-1-carboxylic acid tert-butyl ester | 8 g | C(C)(C)(C)OC(=O)N1[C@@H](CC1)C(N)=O | C9H16N2O3
reactant | HCl | 1M, 200 mL | Cl | ClH
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 160 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | (2S)-aminomethyl-azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CC1)CN | C9H18N2O2
